US04605664
To a stirred solution of (6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)acetamide (6.8 g., 0.02 mole) in ethanol (100 ml) is added sodium borohydride (760 mg. 0.02 mole). After one hour another portion of sodium borohydride (760 mg, 0.021 mole) is added and stirring continued for 3 hours. The reaction mixture is poured into ice water and extracted with ethyl acetate. The ethyl acetate extract is washed with water and dried over magnesium sulfate. The ethyl acetate is evaporated at reduced pressure to give (6,7-dichloro-2-cyclopentyl-2,3-dihydro-1-hydroxy-2-methyl-1H-inden-5-yl)acetamide consisting of a mixture of two diastereomer, each of which is a racemate.

reactant | (6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)acetamide | 0.02 mole, 6.8 g | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)CC(=O)N | C17H19Cl2NO2
reactant | sodium borohydride | 0.02 mole, 760 mg | [BH4-].[Na+]
reactant | sodium borohydride | 0.021 mole, 760 mg | [BH4-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (6,7-dichloro-2-cyclopentyl-2,3-dihydro-1-hydroxy-2-methyl-1H-inden-5-yl)acetamide | ClC1=C(C=C2CC(C(C2=C1Cl)O)(C)C1CCCC1)CC(=O)N | C17H21Cl2NO2
